US06277847B1
Step B Preparation of (aza-2-piperidylidenemethyl)[7-chloro-2-(1-methylethyl)isoindolin-1-on-4-yl]amine
A stirred solution of 4.3 grams (0.016 mole) of [7-chloro-2-(1-methylethyl)isoindolin-1-on-4-yl]hydrazine hydrochloride and 10 mL of methanol in 40 mL of HOAc was cooled in an ice-water bath and 2.6 grams (0/023 mole) of O-methylvalerolactin was added dropwise, followed by 0.5 gram (catalyst) of concentrated sulfuric acid. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature where it stirred for about 18 hours. After this time the reaction mixture was cooled, cold aqueous 10% sodium hydroxide was added, and the mixture was extracted with EtOAc. The combined extracts were washed with water, then with aqueous concentrated sodium chloride solution. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was purified by column chromatography on silica gel using mixtures of EtOAc, hexane, and methanol as eluants. The fractions containing product were combined and concentrated under reduced pressure, yielding 1.4 grams of subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | [7-chloro-2-(1-methylethyl)isoindolin-1-on-4-yl]hydrazine hydrochloride | 0.016 mole, 4.3 grams | Cl.ClC=1C=CC(=C2CN(C(C12)=O)C(C)C)NN
reactant | methanol | 10 mL | CO | CH4O
reactant | sulfuric acid | 0.5 gram | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | HOAc | 40 mL | CC(=O)O | C2H4O2
product | (aza-2-piperidylidenemethyl)[7-chloro-2-(1-methylethyl)isoindolin-1-on-4-yl]amine | 1.4 grams | N1C(NCCC1)=CNC1=C2CN(C(C2=C(C=C1)Cl)=O)C(C)C | C16H21ClN4O
